US04261989
Into 50 ml. of chloroform, 280 mg. of Geldanamycin was dissolved and then, 1 ml. of n-propylamine was added. The mixture was stirred at room temperature for 1 hour and the mixture was charged into 50 ml. of cold water and then, pH was adjusted 3 with 6 N-HCl. The chloroform layer was separated and the water layer was extructed with 50 ml. of chloroform. Both chloroform layers were combined and dehydrated over anhydrous sodium sulfate for 2 hours. Chloroform was distilled off under a reduced pressure to remain a reddish violet solid product. The solid product was recrystallized from acetone-n-hexane to obtain 286 mg. (yield 98%) of 17-n-propylamino-Geldanamycin as reddish violet acicular crystal.

reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | Geldanamycin | C[C@H]1C[C@@H]([C@@H]([C@H](/C=C(/[C@@H]([C@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)OC)/C)OC)OC(=O)N)\C)C)O)OC | C29H40N2O9
reactant | n-propylamine | C(CC)N | C3H9N
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 17-n-propylamino-Geldanamycin | yield 98% | CCCNC1=C2CC(CC([C@H]([C@@H](/C=C(/C(C(/C=C\C=C(\C(=O)NC(=CC1=O)C2=O)/C)OC)OC(=O)N)\C)C)O)OC)C | C31H45N3O8
